US08710236B2
Step B: 4-[2-(4-Bromo-phenylcarbamoyl)-2-(4-tert-butyl-cyclohexyl)-ethyl]-benzoic Acid methyl ester
To 1 eq (2.32 mmol) of 4-[5-(4-tert-Butyl-cyclohexyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester was added 1.5 eq (3.5 mmol) of 4-bromoaniline in 2 mL of n-methyl-pyrrolidinone in a microwave vial. The reaction was run for eight minutes at 220 degrees C. The reaction mixture was worked up by partitioning with ethyl acetate/diethyl ether (1:1)/1 N HCl. Product was isolated by chromatography gradient: 10% ethyl acetate/hexane to 40% ethyl acetate hexane.

reactant | 4-[5-(4-tert-Butyl-cyclohexyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester | 2.32 mmol, 1 eq | COC(C1=CC=C(C=C1)CC1(C(OC(OC1=O)(C)C)=O)C1CCC(CC1)C(C)(C)C)=O | C25H34O6
reactant | 4-bromoaniline | 3.5 mmol, 1.5 eq | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | ethyl acetate hexane | CCCCCC.C(C)(=O)OCC
solvent | n-methyl-pyrrolidinone | 2 mL | CN1C(CCC1)=O | C5H9NO
product | 4-[2-(4-Bromo-phenylcarbamoyl)-2-(4-tert-butyl-cyclohexyl)-ethyl]-benzoic Acid methyl ester | COC(C1=CC=C(C=C1)CC(C1CCC(CC1)C(C)(C)C)C(NC1=CC=C(C=C1)Br)=O)=O | C27H34BrNO3
